US05231102
b) 4-(3-(Tertiarybutyloxycarbonylamino)propyl)phenylacetic acid
4-(3-(Tertiarybutoxycarbonylamino)propyl)phenylacetic acid methyl ester (2.0 g) was dissolved in 50% aqueous methanol (100 ml) with sodium hydroxide (1 g) and stirred at room temperature for 14 h. The methanol was removed under vacuum and the residual aqueous solution was acidified to pH1 using 1N hydrochloric acid, and the resulting precipitate extracted into ethyl acetate (2×100 ml). The combined organic extracts were dried (Na2SO4), filtered and concentrated under vacuum to give the required product as a white solid (1.82 g). δ (360 MHz, CDCl3) 1.44 (9H, s, COC(CH3)3, 1.78 (2H, m, CH2CH2CH2NH), 2.60 (2H, t, J=7.5 Hz, CH2CH2CH2NH), 3.13 (2H, m, CH2CH2CH2NH), 3.60 (2H, s, CH2CO2H), 4.57 (1H, br, s, NH), 7.12 (2 H, d, J=8.0 Hz, ArH), 7.19 (2H, d, J=8.0 Hz, ArH); m/e (CI) 294 (M+1).

reactant | 4-(3-(Tertiarybutoxycarbonylamino)propyl)phenylacetic acid methyl ester | 2.0 g | COC(CC1=CC=C(C=C1)CCCNC(=O)OC(C)(C)C)=O | C17H25NO4
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3-(Tertiarybutyloxycarbonylamino)propyl)phenylacetic acid | 1.82 g | C(C)(C)(C)OC(=O)NCCCC1=CC=C(C=C1)CC(=O)O | C16H23NO4
